US09315491B2
(2-Chloro-ethyl)-carbamic acid 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl ester
A mixture of 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenol (80.0 mg, 0.236 mmol), 1-chloro-2-isocyanato-ethane (43.1 mg, 0.354 mmol, eq=1.5), toluene and CH2Cl2 was added to the reaction vessel and flushed with argon. The reaction mixture was stirred at 80° C. for 16 hrs and then dried, and the solvent was evaporated. The reaction mixture was partitioned between EA and water, the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Hexane/EtOAc 2:1) to give a gray solid of 58.9 mg (58.1%)

reactant | 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenol | 0.236 mmol, 80.0 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)O | C15H16ClN3O2S
reactant | 1-chloro-2-isocyanato-ethane | 0.354 mmol, 43.1 mg | ClCCN=C=O | C3H4ClNO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Chloro-ethyl)-carbamic acid 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl ester | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)OC(NCCCl)=O | C18H20Cl2N4O3S
